US06265411B1
A mixture of 2-amino-5-methoxy-4-(3-(pyrrolidin-1-yl)propoxy)benzamide hydrochloride (5.92 g, 16.2 mmol),and Gold's reagent (3.5 g, 21.4 mmol) in dioxane (50 ml) was heated at reflux for 5 hours. Acetic acid (0.7 ml) and sodium acetate (1.33 g) were added to the reaction mixture which was heated at reflux for a further 5 hours. The mixture was allowed to cool and the volatiles were removed by evaporation. The residue was dissolved in water, adjusted to pH8 with 2M aqueous sodium hydroxide solution and purified on a Diaion (trademark of Mitsubishi) HP20SS resin column eluting with methanol (gradient 0-50%) in water. The fractions containing product were concentrated by evaporation and then freeze dried to give 4-hydroxy-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline (4.55 g, 83%).

reactant | 2-amino-5-methoxy-4-(3-(pyrrolidin-1-yl)propoxy)benzamide hydrochloride | 16.2 mmol, 5.92 g | Cl.NC1=C(C(=O)N)C=C(C(=C1)OCCCN1CCCC1)OC
reactant | Gold's reagent | 21.4 mmol, 3.5 g | CN(C)C=NC=[N+](C)C.[Cl-]
reactant | Acetic acid | 0.7 ml | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 1.33 g | C(C)(=O)[O-].[Na+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4-hydroxy-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline | 4.55 g, 83% | OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C16H21N3O3
